US05811548
103 mg (0.726 mmol) of methyl iodide and 110 mg (0.726 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene were added while cooling with ice to a solution of 430 mg (0.66 mmol) of 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10-yl)-5-oxo-pentanoic acid in 15 ml of N,N-dimethylformamide. The reaction mixture was stirred firstly at room temperature and then at 40°, then cooled and finally poured into water and ethyl acetate. The organic phase was extracted twice with water, dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane (1:1), whereupon, after drying, 390 mg (88%) of methyl 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10-yl)-5-oxo-pentanoate were obtained as a white amorphous foam. MS (FAB): 664 (M+).

reactant | methyl iodide | 0.726 mmol, 103 mg | CI | CH3I
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.726 mmol, 110 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10-yl)-5-oxo-pentanoic acid | 0.66 mmol, 430 mg | C(C1=CC=CC=C1)OC(=O)CC1=C(C=C(C=2N(C3=CC=C(C(=C3SC12)C(=O)OC(C)(C)C)OC)C(CCCC(=O)O)=O)CN)OC | C34H38N2O9S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10-yl)-5-oxo-pentanoate | 390 mg, 88% | C(C1=CC=CC=C1)OC(=O)CC1=C(C=C(C=2N(C3=CC=C(C(=C3SC12)C(=O)OC(C)(C)C)OC)C(CCCC(=O)OC)=O)CN)OC | C35H40N2O9S
